US07189722B2
Step B. (±)-5′-Amino-spiro[imidazolidine-4,2′-indane]-2,5-dione
To a suspension of (±)-5′-nitro-spiro[imidazolidine-4,2′-indane]-2,5-dione (1.77 g, 7.16 mmol) in EtOAc (100 mL) and MeOH (100 mL) was added 10% Pd/C (400 mg) and the reaction stirred vigorously under hydrogen (ca. 1 atm). After 1 h, the catalyst was filtered off and the filtrate was concentrated to yield the title compound as a pale brown solid. MS: m/z=218 (M+1).

reactant | (±)-5′-nitro-spiro[imidazolidine-4,2′-indane]-2,5-dione | 7.16 mmol, 1.77 g | [N+](=O)([O-])C=1C=C2CC3(CC2=CC1)NC(NC3=O)=O | C11H9N3O4
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | (±)-5′-Amino-spiro[imidazolidine-4,2′-indane]-2,5-dione | NC=1C=C2CC3(CC2=CC1)NC(NC3=O)=O | C11H11N3O2
